US07662831B2
Following the procedure of Example 1, Step 4, 4,5,8,9,10,11-hexahydro-7H-cyclohepta[b]pyrrolo[3,2,1-hi]indole-2-amine (0.10 g, 0.44 mmol), 3-cyclopentylpropionyl chloride (0.068 mL, 0.44 mmol) and poly-(4-vinylpyridine) (600 mg) in dichloroethane (15 mL) provided 3-cyclopentyl-N-4,5,8,9,10,11-hexahydro-7H-cyclohepta[b]pyrrolo[3,2,1-hi]indol-2-ylpropanamide (10 mg). MS (ESI) m/z 351; HPLC purity 100% at 210-370 nm, 11.4 min.; 100% at 250 nm, 11.4 min. (Xterra RP18, 3.5 u, 150×4.6 mm column, 1.2 mL/min, 85/15-5/95 (Ammon. Form. Buff. pH=3.5/ACN and MeOH) for 10 min, hold 4 min); HRMS: calcd for C23H30N2O+H+, 351.24309; found (ESI, [M+H]+), 351.2423.

reactant | 4,5,8,9,10,11-hexahydro-7H-cyclohepta[b]pyrrolo[3,2,1-hi]indole-2-amine | 0.44 mmol, 0.10 g | C1=C2C3=C(N4C2=C(C=C1N)CC4)CCCCC3 | C15H18N2
reactant | 3-cyclopentylpropionyl chloride | 0.44 mmol, 0.068 mL | C1(CCCC1)CCC(=O)Cl | C8H13ClO
solvent | dichloroethane | 15 mL | ClC(C)Cl | C2H4Cl2
product | 3-cyclopentyl-N-4,5,8,9,10,11-hexahydro-7H-cyclohepta[b]pyrrolo[3,2,1-hi]indol-2-ylpropanamide | 10 mg | C1(CCCC1)CCC(=O)NC=1C=C2C3=C(N4C2=C(C1)CC4)CCCCC3 | C23H30N2O
